US04144349
1,2,4,5,6,7-Hexahydro-10-methoxythiocino[5,4-b]indole
A mixture of 14.42g (0.1 mole) of 1-thiacyclooctane-5-one, 17.46g (0.1 mole) of p-methoxyphenylhydrazine hydrochloride and 8.21g (0.1 mole) of anhydrous sodium acetate in 170 ml of acetic acid is refluxed with stirring for five hours under nitrogen. The mixture is cooled and poured into 1 liter of water. On standing there is deposited a solid which after washing with water and recrystallization from methanol, gives 18.1g (74%) of an analytical sample, m.p. 122.5°-123.5° C.

reactant | 1-thiacyclooctane-5-one | 0.1 mole, 14.42g | S1CCCC(CCC1)=O | C7H12OS
reactant | p-methoxyphenylhydrazine hydrochloride | 0.1 mole, 17.46g | Cl.COC1=CC=C(C=C1)NN
reactant | sodium acetate | 0.1 mole, 8.21g | C(C)(=O)[O-].[Na+]
reactant | water | 1 liter | O | H2O
solvent | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
product | 1,2,4,5,6,7-Hexahydro-10-methoxythiocino[5,4-b]indole | COC1=CC=2C3=C(NC2C=C1)CCCSCC3 | C14H17NOS
